US06953857B2
(iii) 4-Chloro-3-[2-(2,4-dichloro-phenyl)-ethoxy]-5-methoxy-benzoic acid methyl ester
500 mg (2.31 mmol) of 4-Chloro-3-hydroxy-5-methoxy-benzoic acid methyl ester was dissolved in 15 ml of anhydrous tetrahydrofuran. To this solution was added 485 mg (2.54 mmol) of 2-(2,4-Dichlorophenyl)-ethanol, 2.3 g (equivalent to 6.92 mmol PPh3) of triphenylphosphine derivatized polystyrene and 1.2 g (6.92 mmol) of DEAD. The solution was shaken for 16 h at RT. The polymer was filtered off and washed with ethyl acetate. The solvent was removed under reduced pressure. The residue was chromatographed on silica gel eluting with ethyl acetate/n-heptane (1/5).

reactant | 4-Chloro-3-hydroxy-5-methoxy-benzoic acid methyl ester | 2.31 mmol, 500 mg | COC(C1=CC(=C(C(=C1)OC)Cl)O)=O | C9H9ClO4
reactant | 2-(2,4-Dichlorophenyl)-ethanol | 2.54 mmol, 485 mg | ClC1=C(C=CC(=C1)Cl)CCO | C8H8Cl2O
reactant | triphenylphosphine | 6.92 mmol, 2.3 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DEAD | 6.92 mmol, 1.2 g | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | 4-Chloro-3-[2-(2,4-dichloro-phenyl)-ethoxy]-5-methoxy-benzoic acid methyl ester | COC(C1=CC(=C(C(=C1)OC)Cl)OCCC1=C(C=C(C=C1)Cl)Cl)=O | C17H15Cl3O4
